US08735417B2
N-[3-Methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)-pyrimidin-2-amine (100 mg, 0.264 mmol), sodium carbonate (33.5 mg, 0.316 mmol), 4-(4-bromo-1,3-thiazol-2-yl)morpholine (79 mg, 0.316 mmol), 2-(dicyclohexylphosphino)-3,6-dimethoxy-2′-4′-6′-tri-1-propyl-1,1′-biphenyl (7.1 mg, 0.01 mmol) and chloro[2-(dicyclohexylphosphino)-3,6-dimethoxy-2′-4′-6′-tri-1-propyl-1,1′-biphenyl][2-(2-aminoethyl)phenyl]palladium(II) (10.5 mg, 0.013 mmol) were placed in a 4-mL vial. The vial was evacuated and back-filled with nitrogen (3×). 1,4-Dioxane (2 mL) and water (0.4 mL) were added and the reaction mixture heated to 80° C. for 16 hours. The reaction mixture was cooled to room temperature and filtered over celite with methanol (˜20 mL). Solvent evaporation gave a crude residue which was purified by preparative HPLC Reverse phase (C-18), eluting with acetonitrile/water+0.1% trifluoroacetic acid (eluting with 40-100% MeCN), to give 20 mg (0.037 mmol, 14.2% yield) of N-{3-methyl-5-[2-(morpholin-4-yl)-1,3-thiazol-4-yl]phenyl}-4-(trifluoromethyl)pyrimidin-2-amine trifluoroacetate salt as a yellow solid. MS APCI [M+H]+ m/z 422.1. 1H NMR (500 MHz, d6-DMSO): 2.30 (s, 3H), 3.43 (t, J=4.9 Hz, 4H), 3.72 (t, J=4.9 Hz, 4H), 7.14 (s, 1H), 7.23 (d, J=4.9 Hz, 1H), 7.33 (s, 1H), 7.40 (s, 1H), 8.17 (s, 1H), 8.79 (d, J=4.9 Hz, 1H).

reactant | N-[3-Methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)-pyrimidin-2-amine | 0.264 mmol, 100 mg | CC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NC1=NC=CC(=N1)C(F)(F)F | C18H21BF3N3O2
reactant | sodium carbonate | 0.316 mmol, 33.5 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(4-bromo-1,3-thiazol-2-yl)morpholine | 0.316 mmol, 79 mg | BrC=1N=C(SC1)N1CCOCC1 | C7H9BrN2OS
product | N-{3-methyl-5-[2-(morpholin-4-yl)-1,3-thiazol-4-yl]phenyl}-4-(trifluoromethyl)pyrimidin-2-amine trifluoroacetate salt | 0.037 mmol, 20 mg, 14.2% yield | FC(C(=O)O)(F)F.CC=1C=C(C=C(C1)C=1N=C(SC1)N1CCOCC1)NC1=NC=CC(=N1)C(F)(F)F | InChI=1S/C19H18F3N5OS.C2HF3O2/c1-12-8-13(15-11-29-18(25-15)27-4-6-28-7-5-27)10-14(9-12)24-17-23-3-2-16(26-17)19(20,21)22;3-2(4,5)1(6)7/h2-3,8-11H,4-7H2,1H3,(H,23,24,26);(H,6,7)
